US08048877B2
1,3-Bis-(2-methoxy-5-trifluoromethoxybenzyl)imidazolidin-2-ylideneamine (Compound 15)
The title compound was prepared in three steps as described in Procedure D. In the first step, ethylenediamine was reacted in acetonitrile with 2-methoxy-5-(trifluoromethoxy)benzoylchloride (2 eq) in the presence of TEA to give the dibenzoylated ethylenediamine upon aqueous work-up. After the last step (reaction with cyanogen bromide), the crude product was isolated upon aqueous work-up and purified by column chromatography to give the title compound as the hydrogen bromide salt. MS (ES+) m/z 494 ([M+1]+, 100); HR-MS: 494.1532 ([M+1]+, C21H22F8N3O4; calc. 494.15145).

reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | 2-methoxy-5-(trifluoromethoxy)benzoylchloride | 2 eq | COC1=C(C(=O)Cl)C=C(C=C1)OC(F)(F)F | C9H6ClF3O3
reactant | acetonitrile | C(C)#N | C2H3N
product | 1,3-Bis-(2-methoxy-5-trifluoromethoxybenzyl)imidazolidin-2-ylideneamine | COC1=C(CN2C(N(CC2)CC2=C(C=CC(=C2)OC(F)(F)F)OC)=N)C=C(C=C1)OC(F)(F)F | C21H21F6N3O4
